US04528194
53 mg (2.2 mmol) of sodium hydride was suspended in 5 ml of tetrahydrofuran. To the resultant suspension was added a solution which had been prepared by dissolving 837 mg (2 mmol) of 2-(4-diphenylmethylpiperazinyl)-1-(2-hydroxy-4-methoxyphenyl)ethanol in 5 ml of tetrahydrofuran under ice-cooled conditions. Thereafter, 2 ml of a tetrahydrofuran solution of 266 mg (2.2 mmol) of allylbromide was added and heated with refluxing for 4 hours. After being cooled to room temperature, the resultant mixture was added with 50 ml of ethyl acetate. The mixture was then washed successively with water and saturated saline and then dried over anhydrous sodium sulfate. The solvent was removed, and the residue was subjected to thin-layer chromatography to give 419 mg of 1-(2-allyloxy-4-methoxyphenyl)-2-(4-diphenylmethylpiperazinyl)ethanol as a colorless oily substance (yield: 46%).

reactant | sodium hydride | 2.2 mmol, 53 mg | [H-].[Na+]
reactant | 2-(4-diphenylmethylpiperazinyl)-1-(2-hydroxy-4-methoxyphenyl)ethanol | 2 mmol, 837 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CC(O)C1=C(C=C(C=C1)OC)O)C1=CC=CC=C1 | C26H30N2O3
reactant | allylbromide | 2.2 mmol, 266 mg | C(C=C)Br | C3H5Br
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(2-allyloxy-4-methoxyphenyl)-2-(4-diphenylmethylpiperazinyl)ethanol | 419 mg, yield: 46% | C(C=C)OC1=C(C=CC(=C1)OC)C(CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)O | C29H34N2O3
